US06001997
(c) 5-Methyl-2-tetrahydrofuroic acid
A solution of 5-methyl-2-furoic acid (3.65 g, 28.97 mmol) in ethyl acetate (60 ml) was hydrogenated over 5% rhodium on carbon (250 mg) until hydrogen uptake ceased. The catalyst was filtered off and washed with ethyl acetate. The combined filtrates were concentrated in vacuo to yield the title compound as a pale yellow oil (3.67 g, 97%); νmax (CH2Cl2) 3384, 3359, 1775, 1724 and 1355 cm-1 ; δH (CDCl3, 250 MHz) 1.35 (3 H, d, J 6.1 Hz), 1.53 (1 H, m), 2.09 (1 H, m), 2.17-2.40 (2 H, m), 4.21 (1 H, m) and 4.46 (1 H, dd, J 8.9, 4.7 Hz). [Mass spectrum: +ve ion (ammonia) MNH4+ (148)].

reactant | 5-methyl-2-furoic acid | 28.97 mmol, 3.65 g | CC1=CC=C(O1)C(=O)O | C6H6O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
catalyst | rhodium on carbon | 250 mg | [Rh] | Rh
product | 5-Methyl-2-tetrahydrofuroic acid | 3.67 g, 97% | CC1CCC(O1)C(=O)O | C6H10O3
